US09255100B2
N-cyclopropyl-4-{8-[(2-hydroxy-2-methylpropyl)amino]-6-(methylsulfonyl) imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzamide
To a solution of 38.7 mg (91 μmol) N-cyclopropyl-4-{8-[(2-hydroxy-2-methylpropyl)amino]-6-(methylsulfanyl)imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzamide which was prepared according to intermediate example 15 in 1.2 mL N,N-dimethylformamide were added 168 mg Oxone and the mixture was stirred at 23° C. for 2.5 days. Water was added and the mixture was extracted with dichloromethane. The organic phase was washed with water and dried over sodium sulfate. After filtration and removal of solvent the residue was purified by chromatography to give 18.5 mg (39%) of the title compound.

reactant | N-cyclopropyl-4-{8-[(2-hydroxy-2-methylpropyl)amino]-6-(methylsulfanyl)imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzamide | 91 μmol, 38.7 mg | C1(CC1)NC(C1=C(C=C(C=C1)C1=CN=C2N1N=C(C=C2NCC(C)(C)O)SC)C)=O | C22H27N5O2S
reactant | Oxone | 168 mg | OOS(=O)[O-].[K+]
reactant | Water | O | H2O
reactant | N,N-dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
product | N-cyclopropyl-4-{8-[(2-hydroxy-2-methylpropyl)amino]-6-(methylsulfonyl) imidazo[1,2-b]pyridazin-3-yl}-2-methylbenzamide | 18.5 mg, 39% | C1(CC1)NC(C1=C(C=C(C=C1)C1=CN=C2N1N=C(C=C2NCC(C)(C)O)S(=O)(=O)C)C)=O | C22H27N5O4S
